US07015218B1
1-(3,4-Dichlorophenyl)-N-{3-cyano-4-[4-(2-hydroxyethyl) piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(3,4-dichlorophenyl)-5-methylpyrazole-4-carboxylic acid (2 g) and 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile (2.67 g), the title compound (1.2 g) was obtained, melting point: 195–197° C.

reactant | 1-(3,4-dichlorophenyl)-5-methylpyrazole-4-carboxylic acid | 2 g | ClC=1C=C(C=CC1Cl)N1N=CC(=C1C)C(=O)O | C11H8Cl2N2O2
reactant | 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile | 2.67 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCO | C13H18N4O
product | 1-(3,4-Dichlorophenyl)-N-{3-cyano-4-[4-(2-hydroxyethyl) piperazin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 1.2 g | ClC=1C=C(C=CC1Cl)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)CCO)C#N | C24H24Cl2N6O2
